US05731352
2-(7-METHOXY-1-NAPHTHYL)ETHYL MESYLATE
In a 250-cm3 flask, 4 g of 2-(7-methoxy-1-naphthyl)ethanol are dissolved in 100 cm3 of dichloromethane, and 3.3 cm3 of triethylamine are added. The mixture is cooled in an ice bath at -10° C. and 2.75 g of mesyl chloride are then added dropwise and with stirring. The mixture is left stirring for 30 minutes. The aqueous phase is extracted with 3 times 50 cm3 of dichloromethane, and the organic phase is washed with 3 times 20 cm3 of 1N hydrochloric acid solution and then with water, dried over potassium carbonate and evaporated. The oily residue is recrystallized.

reactant | triethylamine | 3.3 cm3 | C(C)N(CC)CC | C6H15N
reactant | mesyl chloride | 2.75 g | S(=O)(=O)(C)Cl | CH3ClO2S
reactant | 2-(7-methoxy-1-naphthyl)ethanol | 4 g | COC1=CC=C2C=CC=C(C2=C1)CCO | C13H14O2
solvent | dichloromethane | 100 cm3 | ClCCl | CH2Cl2
product | 2-(7-METHOXY-1-NAPHTHYL)ETHYL MESYLATE | S(C)(=O)(=O)OCCC1=CC=CC2=CC=C(C=C12)OC | C14H16O4S
